US05219863
Sodium hydride (60% dispersion in mineral oil; 2 g) was added to a stirred solution of 4-nitrophenol (7 g) in DMF (100 ml) cooled in an ice-water bath. The mixture was stirred until evolution of hydrogen had ceased and N-(2-bromoethyl)phthalimide (12.6 g) was then added. The mixture was stirred and heated at reflux for 10 hours. The cooled mixture was then added to ice-water (500 ml). The precipitated solid was collected by filtration, washed with water and recrystallised from 95% ethanol to give N-(2-(4-nitrophenoxy)ethyl)phthalimide (9.9 g), as crystalline solid, m.p. 151°-153° C.; NMR 4.15(t, 2H), 4.35(t, 2H), 6.95(m, 2H), 7.74(m, 2H), 7.88(m, 2H), 8.18(m, 2H).

reactant | Sodium hydride | 2 g | [H-].[Na+]
reactant | 4-nitrophenol | 7 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | hydrogen | [H][H] | H2
reactant | N-(2-bromoethyl)phthalimide | 12.6 g | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | N-(2-(4-nitrophenoxy)ethyl)phthalimide | 9.9 g | [N+](=O)([O-])C1=CC=C(OCCN2C(C=3C(C2=O)=CC=CC3)=O)C=C1 | C16H12N2O5
